US04625046
2-(2-Propenyl)-2-propyl-3-pentenenitrile
Into a 250 ml 4-neck flask equipped with stirrer, reflux cooler and dropping funnel, 20 g (0.5 moles) of solid sodium hydroxide, 80 ml of toluene and 5 g of tetrabutylammonium bromide are first introduced and heated to 80° C. To this 2-phase system, a mixture of 50 g (0.41 moles) of 2-propyl-2-pentenenitrile and 31.4 g (0.41 moles) of allyl chloride were added in doses within 30 minutes. The reaction mixture was maintained for 2 more hours at a temperature of 75° C. Further work proceeded as in Example 1. A yield of 24 g of desired product, corresponding to 29.4% of the theoretical, was obtained.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-propyl-2-pentenenitrile | 0.41 moles, 50 g | C(CC)C(C#N)=CCC | C8H13N
reactant | allyl chloride | 0.41 moles, 31.4 g | C(C=C)Cl | C3H5Cl
catalyst | tetrabutylammonium bromide | 5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Propenyl)-2-propyl-3-pentenenitrile | yield of 24 g | C(C=C)C(C#N)(C=CC)CCC | C11H17N
